US09422331B2
A rt solution of tert-butyl(3S,4S)-5-acetyl-7-cyano-4-methyl-1-((2-methylnaphthalen-1-yl)methyl)-2-oxo-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazepin-3-ylcarbamate (235 mg, 458 μmol) in 4 M HCl in dioxane (2.29 ml) was stirred for 2 h. The reaction was diluted with Et2O and the solids were collected by vacuum filtration to provide (3S,4S)-5-acetyl-3-amino-4-methyl-1-((2-methylnaphthalen-1-yl)methyl)-2-oxo-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazepine-7-carbonitrile hydrochloride (162 mg, 79%) as a white solid.

reactant | tert-butyl(3S,4S)-5-acetyl-7-cyano-4-methyl-1-((2-methylnaphthalen-1-yl)methyl)-2-oxo-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazepin-3-ylcarbamate | 458 μmol, 235 mg | C(C)(=O)N1C2=C(N(C([C@H]([C@@H]1C)NC(OC(C)(C)C)=O)=O)CC1=C(C=CC3=CC=CC=C13)C)C=CC(=C2)C#N | C30H32N4O4
reactant | HCl | 4 M | Cl | ClH
solvent | dioxane | 2.29 ml | O1CCOCC1 | C4H8O2
solvent | Et2O | CCOCC | C4H10O
product | (3S,4S)-5-acetyl-3-amino-4-methyl-1-((2-methylnaphthalen-1-yl)methyl)-2-oxo-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazepine-7-carbonitrile hydrochloride | 162 mg, 79% | Cl.C(C)(=O)N1C2=C(N(C([C@H]([C@@H]1C)N)=O)CC1=C(C=CC3=CC=CC=C13)C)C=CC(=C2)C#N | InChI=1S/C25H24N4O2.ClH/c1-15-8-10-19-6-4-5-7-20(19)21(15)14-28-22-11-9-18(13-26)12-23(22)29(17(3)30)16(2)24(27)25(28)31;/h4-12,16,24H,14,27H2,1-3H3;1H/t16-,24-;/m0./s1
